US06492356B1
b) tert-Butyl (2S)-2Benzyloxycarbonylamino-3-(4-(3-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)propyloxy)phenyl)propionate
6.72 g (0.06 mol) of potassium tert-butoxide were added to a solution of 8.13 g (0.06 mol) of 1-amino-1,4,5,6-tetrahydropyrimidine hydrochloride in 100 ml of absolute dimethylformamide. After stirring at room temperature for 30 min, 7.2 g (0.015 mol) of tert-butyl (2S)-2-benzyloxycarbonylamino-3-(4-(3-ethoxycarbonylpropyloxy)phenyl)propionate were added to this solution and it was stirred at room temperature for 12 h. After removal of the solvent in vacuo, the residue was treated with 300 ml of ethyl acetate and 100 ml of water, and the organic phase was separated off, washed two times with saturated sodium chloride solution, dried over sodium sulfate and concentrated. The crude product thus obtained was immediately chromatographed on silica gel (dichloromethane/methanol/glacial acetic acid 10015/1). 5.4 g (60.6%) of amorphous product were obtained.

reactant | potassium tert-butoxide | 0.06 mol, 6.72 g | CC(C)([O-])C.[K+]
reactant | 1-amino-1,4,5,6-tetrahydropyrimidine hydrochloride | 0.06 mol, 8.13 g | Cl.NN1C=NCCC1
reactant | tert-butyl (2S)-2-benzyloxycarbonylamino-3-(4-(3-ethoxycarbonylpropyloxy)phenyl)propionate | 0.015 mol, 7.2 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)OCCCC(=O)OCC | C27H35NO7
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | tert-Butyl (2S)-2Benzyloxycarbonylamino-3-(4-(3-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)propyloxy)phenyl)propionate | 5.4 g, 60.6% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)OCCCC(NC=1NCCCN1)=O | C29H38N4O6
